Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Tegaderm Frame Style / Prinivil / Reglan
 
Attending: ___
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
(**the patient is a poor historian and has difficulty answering 
questions regarding his medical care, information was gathered 
from rehab facility and through prior notes**):  
.
The patient is a ___ male CKD s/p renal allograft ___ 
on tacrolimus and prednisone, DMI, CAD s/p CABGx4, PVD s/p right 
popliteal stent, recently admitted for diabetic foot ulcer who 
was treated with ertapenem and vancomycin (switched to 
daptomycin due to elevated creatinine) for a planned 6 week 
course has become progressively confused at ___, and is 
readmitted for workup of confusion.  
.  
The patient was in his usual state of health until his recent 
hospitalization (___). Per report, he is AOx3 and 
pleasantly conversant at baseline. During his prior admission, 
he was placed on broad spectrum antibiotics including vancomycin 
and ertapenem. He was discharged to rehab with a planned 6 week 
course from the date his last debridement (to end on ___. 
In rehab, he was initially doing well until he became 
progressively more confused on ___. This confusion 
correlates with an increase in creatinine (to 1.7) and change of 
vancomycin to daptomycin. He was afebrile, but became 
increasingly more confused. At rehab, he had negative blood, 
urine and wound cultures. Over the weekend, he developed 
diarrhea and a c. dificile toxin on ___ and ___ both 
returned positive. He was not treated for c. dificile at this 
time. He went to ___ clinic where he was febrile and 
referred to the EW. Per report, he had self d/ced his PICC line 
in the setting of his confusion.  
.  
In EW, initial vitals were: T 99.8, HR 80, BP 138/67, RR 20, 
SpO2 95% RA. He was currently A+Ox3, although waxed and waned 
per resident. He was started on IV metronidazole. The ED 
resident reported multiple skin ulcers and remained afebrile. 
Blood cx, UA and urine cx pending.  
.  
Currently, the patient is A+OX2, but appears to be 
hallucinating. He is describing objects in front of him that do 
not exist. He denies any CP or SOB. He denies any abdominal 
pain, diarrhea, or constipation. He denies any urinary symptoms. 
He denies headache or neck stiffness.  
.  
Review of systems:  
As per above. Limited as patient is poor historian.  
.  
 
Past Medical History:
-DVT (multiple) s/p IVC filter ___ on coumadin for life
-CAD s/p CABG and MI; s/p stents
-Chronic dCHF
-HTN
-DM1 with retinopathy, neuropathy, ESRD, R charcot foot in ___
-s/p cadaveric renal transplant in ___ on prednisone and
tacrolimus
-ORIF right arm
-chronic foot ulcer
-amputated right toe
-MRSA right foot with osteomyelitis
-C diff colitis ___
-cryptococcal pna in ___, now on fluconazole suppressive
therapy
-lung nodules
-PVD
-GERD
-b/l cataract surgery,
-s/p pop artery angioplasty in ___
-cellulitis
-chronic osteomyelitis followed in ID clinico
-Anemia
-Arteriogram showing R fem/tib and L tib dz and vascular plans 
to consider intervention as outpatient.
 
Social History:
___
Family History:
DM type II in father and paternal grandfather. Mother had "heart 
disease".

 
Physical Exam:
ADMISSION EXAM:
VS: Temp 101.5 F, BP 136/82, HR 70, R 18, O2-sat 97% RA  
GENERAL: Shaking in bed, appearing uncomfortable, A+OX2 (cannot 
state date)  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MM dry, OP clear  

NECK: supple, no JVD, no carotid bruits  
LUNGS: Crackles at bases bilaterally, resp unlabored, no 
accessory muscle use  
HEART: RRR, no MRG, nl S1-S2
ABDOMEN: NABS, soft/NT/ND, no masses or HSM, no rebound/guarding
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses (radials, DPs)  

SKIN: no sacral decub, healing ulcer lateral aspect of his left 
___ MTP joint.  
NEURO: awake, A&Ox2, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact, gait not assessed  
.
DISCHARGE EXAM:
NEURO: A+OX3

 
Pertinent Results:
ADMISSION LABS:
___ 12:10PM BLOOD WBC-8.5# RBC-3.39* Hgb-9.8* Hct-28.7* 
MCV-85 MCH-29.0 MCHC-34.2 RDW-16.7* Plt ___
___ 12:10PM BLOOD Neuts-84.4* Lymphs-9.6* Monos-4.4 Eos-1.3 
Baso-0.3
___ 12:10PM BLOOD ___ PTT-33.9 ___
___ 12:10PM BLOOD Glucose-153* UreaN-27* Creat-1.3* Na-146* 
K-4.4 Cl-114* HCO3-17* AnGap-19
___ 12:10PM BLOOD ALT-42* AST-69* AlkPhos-85 TotBili-0.4
___ 04:40AM BLOOD CK-MB-4 cTropnT-0.04*
___ 12:10PM BLOOD Albumin-3.1* Calcium-9.0 Phos-3.4 Mg-2.0
___ 09:52AM BLOOD Vanco-26.7*
___ 04:40AM BLOOD tacroFK-4.5*
___ 12:27PM BLOOD Lactate-1.4
.
DISCHARGE LABS:
___ 05:26AM BLOOD WBC-3.6* RBC-3.48* Hgb-9.8* Hct-29.9* 
MCV-86 MCH-28.1 MCHC-32.7 RDW-16.5* Plt ___
___ 05:26AM BLOOD Glucose-311* UreaN-36* Creat-1.8* Na-141 
K-3.6 Cl-110* HCO3-22 AnGap-13
___ 05:26AM BLOOD ALT-39 AST-36 AlkPhos-88 TotBili-0.3
___ 05:26AM BLOOD Calcium-7.6* Phos-3.6 Mg-1.8
___ 04:55AM BLOOD tacroFK-10.5
.
IMAGING:
CT HEAD: There is no evidence of hemorrhage, edema, large 
masses, mass 
effect, or acute infarction. The ventricles and sulci are 
prominent 
consistent with age-related parenchymal involution. Intra- 
andextracranial 
vascular calcifications are identified including within the 
vertebral and 
carotid siphons. No fractures are identified. The visualized 
portions of the paranasal sinuses, mastoid air cells, and middle 
ear cavities are clear. No soft tissue swelling identified. 
IMPRESSION: No acute process. 
.
CXR: Overall central vascular congestion with mild early 
interstitial edema noted. No definite pneumonia. Otherwise 
numerous incidental findings stable with the exception of the 
removal in the interval of the PICC line. 
.
L SHOULDER X-RAY: IMPRESSION: No fracture or evidence of 
infection.
.
CT CHEST: 
1. New scattered bronchocentric ground-glass opacities are 
consistent with 
infection particularly in light of confusion and fever, fungal 
and viral 
etiologies are considered probable given the ground-glass 
appearance and 
history of immunosuppression. Drug-induced organizing pneumonia 
caused by tacrolimus therapy can also produce this appearance, 
but is less likely to cause the reported clinical abnormalities. 
The right upper lobe ground glass opacity is peripheral and may 
be an appropriate site for wedge resection, if this is being 
considered.  
2. Stable appearance of the right upper lobe wedge resection 
site and left upper lobe lobulated nodule, given the lack of 
growth of the left upper lobe lesion, this is probably benign 
and may represent the same process as the previously resected 
lesion in the right upper lobe.  
3. New small bilateral pleural effusions. 
4. Extensive atherosclerotic calcification of the thoracic 
aorta, abdominal aorta and coronary arteries. 
.
RIGHT FOOT X-RAY: Marked dorsal soft tissue swelling with 
possible subcutaneous emphysema. No definite osteomyelitis. 
.
EKG: Sinus rhythm with a ventricular premature beat. Low limb 
lead voltage. ST-T wave abnormalities. Since the previous 
tracing of ___ differences in baseline make comparison 
difficult. ST-T wave abnormalities may now be less prominent. 
.
MICROBIOLGY:
Urine Culture: negative
Cryptococcal Antigen: negative
Legionella Ag: negative
C.Diff toxin: negative
B-Glucan: <31 pg/mL (negative)
.
PENDING LABS:
Blood cultures (NGTD)
Galactomannan

 
Brief Hospital Course:
The patient is a ___ male with CKD status-post renal 
allograft ___ on tacrolimus and prednisone, recently admitted 
for diabetic foot ulcer, undergoing treatment with ertapenem and 
daptomycin for a planned 6 week course who became progressively 
confused at rehab, noted to have positive c. difficile toxin.  
.  
# Altered Mental Status/Fever: Alteration in mental status 
believed to be delirium in setting of infection, as patient 
presented with report of positive c.diff toxin at rehab and 
profuse diarrhea. CT head was negative for acute process. Low 
suspicion for CNS infection; LP was deferred on admission given 
INR>5 (see below). Blood cultures with no growth at the time of 
discharge. Urine culture was negative. CXR demonstrated right 
upper lung opacities to be followed as an outpatient (see below 
for further discussion). On presentation, patient was started on 
PO vancomycin, meropenem, and vancomycin (given poor lung 
penetration of daptomycin). Per ID recommendation, the patient 
was transitioned to tigecycline and renally-dosed ciprofloxacin 
at the time of discharge. These antibiotics are to be continued 
until follow-up with ID on ___. PICC line was placed on 
___. The patient's mental status improved with therapy, 
though he did have intermittent hallucinations throughout his 
hospital course. He was evaluated by psychiatry, who felt that 
his hallucinations represented delirium. At the time of 
discharge, he was alert and oriented times three, without 
evidence of hallucination.
.  
# RUL opacities: CXR at presentation showed right upper lung 
opacities suspicious for infection. He had no cough, hypoxia, or 
shortness of breath. CT Chest was obtained, which showed "new 
scattered bronchocentric ground-glass opacities consistent with 
infection particularly in light of confusion and fever, fungal 
and viral etiologies are considered probable given the 
ground-glass appearance and history of immunosuppression." 
Cryptococcal and Legionella antigen were negative. Induced 
sputum was unable to be obtained by respiratory therapy. The 
decision was made to follow this abnormality with a re-peat 
Chest CT in 1 months time rather than subject the patient to 
bronchoscopy (given his lack of respiratory symptoms and 
improvement in mental status).
. 
# Diabetic foot ulcer/osteomyelitis: Previously evaluated by ID 
team during recent admission; recommended 6 week course of 
vancomycin and ertapenem. Prior to this hospitalization (while 
at rehab), the patient was switched from vancomycin to 
daptomycin given increased creatinine. Per ID recommendation, 
the patient was transitioned to tigecycline and ciprofloxacin 
during this hospital stay. Wound care service followed patient 
in house. There was concern for onset of infection in right foot 
for which X-ray was obtained. However, patient was evaluated by 
podiatry, who felt that there was no evidence of worsening 
infection. He will follow-up with Podiatry as an outpatient.
.  
# Acute kidney injury: Cr peaked at 2.2. Infection suggestive of 
pre-renal etiology. Creatinine began downward trend with fluid 
administration and removal of diuretics. At the time of 
discharge, Cr was 1.8. 
.  
# Type 1 Diabetes (A1c 9.8): Patient's blood sugars were 
initially high in the setting of infection, and his lantus was 
uptitrated. After uptitration, he developed hypoglycemia. His 
lantus was resumed at his home dose (9 units daily) with good 
glucose control.  
.  
# Elevated INR: Likely elevated secondary to antibiotics in 
setting of chronic warfarin. The patient's coumadin was 
initially held, and subsequently re-started at a lower dose. At 
the time of discharge, INR was 3.5; coumadin was held. He will 
require a re-peat INR on ___. A decision can be made at this 
time about dosing.
.  
# Transaminitis: Unclear etiology. Trended down by the time of 
discharge.  
.  
# CAD and PVD: Continued plavix, aspirin, statin, and 
metoprolol.  
.  
# Status-post renal transplant: Patient's tacrolimus level 
ranged from 4.5-13.7 during admission. His tacrolimus dose was 
reduced to 0.5 mg BID. He may require titration of tacrolimus 
dose in setting of tigecycline. He was continued on prednisone, 
bactrim and fluconazole for prophylaxis.
.  
# Transitions of Care:
- Please check the following labs on ___ and ___: 
INR and tacrolimus level. Please re-start and/or adjust coumadin 
to achieve goal level ___. Please fax results of tacrolimus 
level to ___ at ___.
- Please check the following labs weekly: CBC with diff, BUN, 
CREA, LFTs, Lipase, ESR, CRP. Please fax results to Infectious 
Disease R.Ns. at ___. 
- Please re-peat non-contrast CT Chest for evaluation of right 
upper lobe opacities in one month.
- Patient will follow-up in ID, Podiatry, Transplant, and 
___ clinic.
 
Medications on Admission:
-amlodipine 5 mg PO DAILY  
-simvastatin 80 mg PO HS  
-clopidogrel 75 mg PO DAILY  
-fluconazole 200 mg PO Q24H  
-fludrocortisone 0.1 mg PO DAILY  
-furosemide 40 mg PO DAILY  
-Lantus 9 units Subcutaneous at 1100  
-insulin aspart ISS  
-iron polysacch complex-B12-FA 150-25-1 mg-mcg-mg PO daily  
-isosorbide mononitrate er 60 mg PO DAILY  
-metoprolol tartrate 75 mg PO BID  
-prednisone 5 mg PO DAILY  
-Actonel 35 mg PO once a week  
-sulfamethoxazole-trimethoprim 400-80 mg PO DAILY  
-tacrolimus 1 mg PO Q12H  
-esomeprazole 40 mg PO DAILY  
-warfarin 3 mg PO DAILY  
-aspirin 81 mg PO DAILY  
-latanoprost 0.005 % Drops Ophthalmic DAILY  
-Nephrocaps 1cap PO daily  
-Cholestyramine 4g PO daily  
-Abscorbic acid ___ PO BID  
-ertapenem 1 gram Intravenous once a day for 6 weeks: Projected 
stop date is ___  
-Daptomycin 100ml IV daily  
-Lactinex ___ PO BID  
-Oxycodone 5mg PO q6H prn  
 
Discharge Medications:
1. amlodipine 5 mg Tablet Sig: One (1) Tablet PO once a day.  
2. simvastatin 80 mg Tablet Sig: One (1) Tablet PO at bedtime.  
3. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. fluconazole 200 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours).  
5. fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. insulin glargine 100 unit/mL Solution Sig: Nine (9) units 
Subcutaneous once a day: Please take at 1100.  
8. insulin aspart 100 unit/mL Solution Sig: as per sliding scale 
units Subcutaneous once a day: ASDIR.  
9. iron polysacch complex-B12-FA 150-25-1 mg-mcg-mg Capsule Sig: 
One (1) Capsule PO once a day: Please take 2 hours before or 
after tigecycline/ciprofloxacin dose.  
10. isosorbide mononitrate 60 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
11. metoprolol tartrate 50 mg Tablet Sig: 1.5 Tablets PO twice a 
day.  
12. prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
13. Actonel 35 mg Tablet Sig: One (1) Tablet PO once a week.  
14. sulfamethoxazole-trimethoprim 400-80 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
15. esomeprazole magnesium 40 mg Capsule, Delayed Release(E.C.) 
Sig: One (1) Capsule, Delayed Release(E.C.) PO once a day.  
16. Coumadin 1 mg Tablet Sig: One (1) Tablet PO once a day: 
Please re-start after INR check on ___ if appropriate to 
achieve goal INR ___.  
17. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
18. latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic QAM 
(once a day (in the morning)).  
19. B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
20. cholestyramine (bulk)  Miscellaneous
21. ascorbic acid ___ mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
22. vancomycin 125 mg Capsule Sig: One (1) Capsule PO Q6H (every 
6 hours): Please continue through ___ (ID appt) and await 
instructions.  
23. tigecycline 50 mg Recon Soln Sig: One (1) injection 
Intravenous every twelve (12) hours: Please continue through 
___ (ID appt) and await instructions.  
24. ciprofloxacin 250 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours): Please continue through ___ (ID appt) and 
await instructions.  
25. oxycodone 5 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain.  
26. Outpatient Lab Work
Please check the following labs on ___ and ___: INR 
and tacrolimus level. Please re-start and/or adjust coumadin to 
achieve goal level ___. Please fax results of tacrolimus level 
to ___ at ___.
27. Outpatient Lab Work
Please check the following labs weekly (___): CBC with 
diff, BUN, CREA, LFTs, Lipase, ESR, CRP. Please fax results to 
Infectious Disease R.Ns. at ___.

28. tacrolimus 0.5 mg Capsule Sig: One (1) Capsule PO twice a 
day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
- Clostridium Dificile Infection
- Osteomyelitis
.
Secondary Diagnosis:
- Chronic Kidney Disease status-post renal allograft

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
.
It was a pleasure taking care of you at ___ 
___. You were admitted to the hospital with fevers 
and confusion. These symptoms were believed to be related to an 
infection in your stool called Clostridium Dificile. You were 
started on an antibiotic for this infection, and were continued 
on your other antibiotics for your foot infection.
.
Please START the following medication:
- Tigecycline
- Ciprofloxacin
- Vancomycin (oral)
.
Please STOP the following medications:
- Daptomycin
- Ertapenem
.
Please CHANGE the following medication:
COUMADIN (from 3 mg daily to 1 mg daily)
TACROLIMUS (from 1 mg twice daily to 0.5 mg twice daily)
.
Your coumadin dosing will be adjusted at the rehab facility 
according to your coumadin level. Please continue all other 
medications as they have been prescibed. Should you experience 
any symptoms that concern you after leaving the hospital, please 
call your renal or infectious disease doctor.
 
Followup Instructions:
___